US07112673B2
e) 10-Methoxy-dibenzo[b,f]azepine-5-carboxylic acid methyl ester
A mixture of [2-(methoxycarbonyl-phenyl-amino)-phenyl]-acetic acid (16 g, 55.5 mmol) and polyphosphoric acid (29 g, 167 mmol in terms of P2O5) is heated to 100° C. for 4 hours. To the reaction mixture, methanol (50 ml) is added dropwise at 65° C. with stirring. The resulting suspension is cooled to room temperature, filtered and washed with methanol (40 ml). The white crystals are dried to yield 12.2 g of pure title compound (80%).

reactant | [2-(methoxycarbonyl-phenyl-amino)-phenyl]-acetic acid | 55.5 mmol, 16 g | COC(=O)N(C1=C(C=CC=C1)CC(=O)O)C1=CC=CC=C1 | C16H15NO4
reactant | methanol | 50 ml | CO | CH4O
product | 10-Methoxy-dibenzo[b,f]azepine-5-carboxylic acid methyl ester | 12.2 g, 80% | COC(=O)N1C2=C(C=C(C3=C1C=CC=C3)OC)C=CC=C2 | C17H15NO3
